US09238639B2
A) 1-Fluoro-3-methoxy-5-((4-methoxybenzyl)sulfanyl)benzene
To a mixture of 1-bromo-3-fluoro-5-methoxybenzene (5 g), (4-methoxyphenyl)methanethiol (3.76 g), and toluene (100 mL) were added Pd2(dba)3 (0.447 g), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.564 g) and DIPEA (8.52 mL). The mixture was stirred at room temperature overnight. The mixture was poured into water and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (6.20 g).

reactant | 1-bromo-3-fluoro-5-methoxybenzene | 5 g | BrC1=CC(=CC(=C1)OC)F | C7H6BrFO
reactant | (4-methoxyphenyl)methanethiol | 3.76 g | COC1=CC=C(C=C1)CS | C8H10OS
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | DIPEA | 8.52 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | Pd2(dba)3 | 0.447 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.564 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | water | O | H2O
product | 1-Fluoro-3-methoxy-5-((4-methoxybenzyl)sulfanyl)benzene | 6.20 g | FC1=CC(=CC(=C1)SCC1=CC=C(C=C1)OC)OC | C15H15FO2S
